US05032312
2.9 g of 4-hydroxybenzaldehyde, 5.0 g of (E)-3-(trans-4-pentylcyclohexyl)allyl alcohol, 4.1 g of diethyl azodicarboxylate, 6.2 g of triphenylphosphine and 100 ml of tetrahydrofuran were reacted in an analogous manner to Example 1 to give 4.5 g of 4-[(E)-3-(trans-4-pentylcyclohexyl)allyloxy]benzaldehyde (m.p. 54-55° C.).

reactant | 4-hydroxybenzaldehyde | 2.9 g | OC1=CC=C(C=O)C=C1 | C7H6O2
reactant | (E)-3-(trans-4-pentylcyclohexyl)allyl alcohol | 5.0 g | C(CCCC)[C@@H]1CC[C@H](CC1)/C=C/CO | C14H26O
reactant | diethyl azodicarboxylate | 4.1 g | N(=NC(=O)OCC)C(=O)OCC | C6H10N2O4
reactant | triphenylphosphine | 6.2 g | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
solvent | tetrahydrofuran | 100 ml | O1CCCC1 | C4H8O
product | 4-[(E)-3-(trans-4-pentylcyclohexyl)allyloxy]benzaldehyde | 4.5 g | C(CCCC)[C@@H]1CC[C@H](CC1)/C=C/COC1=CC=C(C=O)C=C1 | C21H30O2
